### PR TITLE
[Merged by Bors] - (sub-)additivity of an addContent on a (semi-)ring of sets

### PR DESCRIPTION
**Pull request by pfaffelh**
<feat>(sub-)additivity of an addContent on a (semi-)ring of sets

2nd PR on the way to Caratheodorys extension theorem. Show monotonicity, additivity, and sub-additivity ↔ additivity (where mpr requires the content to be defined on a ring).

Co-authored-by: Rémy Degenne <remy.degenne@inria.fr>

- depends on: 
- #20931
- #15294 
-->

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Accumulate.lean [hunk 1]
```diff
@@ -52,16 +52,29 @@ theorem iUnion_accumulate [Preorder α] : ⋃ x, Accumulate s x = ⋃ x, s x :=
...
-theorem disjoint_accumulate [Preorder α] (hs : Pairwise (Disjoint on s)) {i j : α} (hij : i < j) :
-    Disjoint (Accumulate s i) (s j) := by
-  apply disjoint_left.2 (fun x hx ↦ ?_)
-  simp only [Accumulate, mem_iUnion, exists_prop] at hx
-  rcases hx with ⟨k, hk, hx⟩
-  exact disjoint_left.1 (hs (hk.trans_lt hij).ne) hx
+theorem accumulate_succ (s : ℕ → Set α) (n : ℕ) :
+    Set.Accumulate s (n + 1) = Set.Accumulate s n ∪ s (n + 1) := Set.biUnion_le_succ s n
+
+theorem disjoint_accumulate {s : ℕ → Set α} (hs : Pairwise (Function.onFun Disjoint s)) {i j : ℕ}
```
Comment (sgouezel) [inline Mathlib/Data/Set/Accumulate.lean:68]: I think the existing version of `disjoint_accumulate` that you remove is stronger than the one you add.

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 2]
```diff
@@ -107,6 +112,23 @@ lemma addContent_union' (hs : s ∈ C) (ht : t ∈ C) (hst : s ∪ t ∈ C) (h_d
     rw [← hs_eq_t] at h_dis
     exact Disjoint.eq_bot_of_self h_dis
 
+section OrderedAddCommMonoid
+
+/-- Subadditivity of the sum over a finset. -/
+lemma Finset.sum_image_le_of_nonneg {ι α β : Type*} [DecidableEq α]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:118]: This does not belong to this file.

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 3]
```diff
@@ -141,8 +166,145 @@ lemma addContent_mono (hC : IsSetSemiring C) (hs : s ∈ C) (ht : t ∈ C)
   · simp only [coe_singleton, pairwiseDisjoint_singleton]
   · simp [hst]
 
+/-- For an `m : addContent C` on a `SetSemiring C` and `s t : Set α` with `s ⊆ t`, we can write
+`m t = m s + ∑ i in hC.disjointOfDiff ht hs, m i`.-/
+theorem eq_add_disjointOfDiff_of_subset (hC : IsSetSemiring C) (m : Set α → ℝ≥0∞)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:171]: Is there a reason why you're writing this for a general `m` with a bunch of assumptions, instead of assuming just that `m` is an `addContent`?

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 4]
```diff
@@ -141,8 +166,145 @@ lemma addContent_mono (hC : IsSetSemiring C) (hs : s ∈ C) (ht : t ∈ C)
...
+  · rw [coe_insert]
+    rwa [hC.sUnion_insert_disjointOfDiff ht hs hst]
+
+variable (hC : IsSetSemiring C) (m : Set α → ℝ≥0∞)
+  (m_add : ∀ (I : Finset (Set α)) (_h_ss : ↑I ⊆ C) (_h_dis : PairwiseDisjoint (I : Set (Set α)) id)
+    (_h_mem : ⋃₀ ↑I ∈ C), m (⋃₀ I) = ∑ u in I, m u)
+
+example (s : Set (Set α)) (t : Set α) : (∀ a ∈ s, a ⊆ t) ↔ ⋃₀ s ⊆ t := by
+  exact Iff.symm sUnion_subset_iff
+
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:194]:
```suggestion
```

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 5]
```diff
@@ -141,8 +166,145 @@ lemma addContent_mono (hC : IsSetSemiring C) (hs : s ∈ C) (ht : t ∈ C)
   · simp only [coe_singleton, pairwiseDisjoint_singleton]
   · simp [hst]
 
+/-- For an `m : addContent C` on a `SetSemiring C` and `s t : Set α` with `s ⊆ t`, we can write
+`m t = m s + ∑ i in hC.disjointOfDiff ht hs, m i`.-/
+theorem eq_add_disjointOfDiff_of_subset (hC : IsSetSemiring C) (m : Set α → ℝ≥0∞)
+    (m_add : ∀ (I : Finset (Set α)) (_ : ↑I ⊆ C) (_ : PairwiseDisjoint (I : Set (Set α)) id)
+        (_h_mem : ⋃₀ ↑I ∈ C), m (⋃₀ I) = ∑ u in I, m u)
+    (hs : s ∈ C) (ht : t ∈ C) (hst : s ⊆ t) [DecidableEq (Set α)] :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:174]:
```suggestion
    (hs : s ∈ C) (ht : t ∈ C) (hst : s ⊆ t) :
```

**Review by sgouezel — COMMENTED** [review]
Nice, thanks!

Could you also take advantage of this PR to fix the last comment on https://github.com/leanprover-community/mathlib4/pull/20931, and also move the `:=` on Line 435 of the semiring file to the previous line? Thanks!

File: Mathlib/Data/Set/Accumulate.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/Data/Set/Accumulate.lean]: I've pushed a few changes to this file, to fix the build. In particular, I've restored the previous version, so you have nothing to do here.

**Comment by sgouezel** [comment]
It doesn't build, but it's only the `AddContent` file, not a weird CI error, so hopefully you can fix this. If you encounter difficulties, tell me and I'll take it of it.

File: Mathlib/Data/Set/Accumulate.lean (hunk 1 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Accumulate.lean]: Thanks!

File: Mathlib/MeasureTheory/Measure/AddContent.lean (hunk 2 above)
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Measure/AddContent.lean:118]: I agree, but the right place is not easy to find (for me). I have now put it in `Algebra.OrderBigOperators.Ring.Finset`. For this, I had to `import Mathlib.Algebra.Order.Module.Defs` in that file.

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 6]
```diff
@@ -168,7 +151,7 @@ lemma addContent_mono (hC : IsSetSemiring C) (hs : s ∈ C) (ht : t ∈ C)
 
 /-- For an `m : addContent C` on a `SetSemiring C` and `s t : Set α` with `s ⊆ t`, we can write
 `m t = m s + ∑ i in hC.disjointOfDiff ht hs, m i`.-/
-theorem eq_add_disjointOfDiff_of_subset (hC : IsSetSemiring C) (m : Set α → ℝ≥0∞)
+theorem eq_add_disjointOfDiff_of_subset (hC : IsSetSemiring C) (m : AddContent C)
     (m_add : ∀ (I : Finset (Set α)) (_ : ↑I ⊆ C) (_ : PairwiseDisjoint (I : Set (Set α)) id)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:155]: Since you've switched to `AddContent`, you can remove `m_add`.

File: Mathlib/MeasureTheory/Measure/AddContent.lean (hunk 3 above)
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Measure/AddContent.lean]: Actuall no, there is no reason. Changed.

File: Mathlib/MeasureTheory/Measure/AddContent.lean (hunk 4 above)
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Measure/AddContent.lean:177]: Thanks, this was a leftover...

File: Mathlib/MeasureTheory/Measure/AddContent.lean (hunk 5 above)
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Measure/AddContent.lean:157]: Changed.

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 7]
```diff
@@ -141,8 +166,145 @@ lemma addContent_mono (hC : IsSetSemiring C) (hs : s ∈ C) (ht : t ∈ C)
...
+  classical
+  have h1 : (disjiUnion J (hC.disjointOfUnion h_ss)
+      (hC.pairwiseDisjoint_disjointOfUnion h_ss)).toSet ⊆ C := by
+    simp only [disjiUnion_eq_biUnion, coe_biUnion, mem_coe, iUnion_subset_iff]
+    exact fun _ ↦ hC.subsets_disjointOfUnion h_ss
+  have h2 : PairwiseDisjoint (disjiUnion J (hC.disjointOfUnion h_ss)
+      (hC.pairwiseDisjoint_disjointOfUnion h_ss)).toSet id := by
+    simp only [disjiUnion_eq_biUnion, coe_biUnion, mem_coe]
+    exact hC.pairwiseDisjoint_disjointOfUnion_self h_ss
+  have h3 : (⋃₀ J.toSet) = ⋃₀ (disjiUnion J (hC.disjointOfUnion h_ss)
```
[the remark this answers is not in the document]
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Measure/AddContent.lean:191]: Done, and changed some `toSet` to ` : Set (Set α)`.

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 8]
```diff
@@ -141,8 +166,145 @@ lemma addContent_mono (hC : IsSetSemiring C) (hs : s ∈ C) (ht : t ∈ C)
...
+    exact hC.inter_mem _ ht _ (h_ss hu)
+  · rwa [← ht_eq]
+  · refine (Finset.sum_image_le_of_nonneg fun _ _ ↦ zero_le _).trans (sum_le_sum fun u hu ↦ ?_)
+    exact addContent_mono hC (hC.inter_mem _ ht _ (h_ss hu)) (h_ss hu) inter_subset_right
+
+/-- If an `AddContent` is σ-subadditive on a semi-ring of sets, then it is σ-additive. -/
+theorem addContent_iUnion_eq_tsum_of_disjoint_of_addContent_iUnion_le {m : AddContent C}
+    (hC : IsSetSemiring C)
+    (m_subadd : ∀ (f : ℕ → Set α) (_ : ∀ i, f i ∈ C) (_ : ⋃ i, f i ∈ C)
+      (_hf_disj : Pairwise (Function.onFun Disjoint f)), m (⋃ i, f i) ≤ ∑' i, m (f i))
```
[the remark this answers is not in the document]
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Measure/AddContent.lean:228]: Thanks, done.

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 9]
```diff
@@ -141,8 +166,145 @@ lemma addContent_mono (hC : IsSetSemiring C) (hs : s ∈ C) (ht : t ∈ C)
...
+variable (hC : IsSetSemiring C) (m : Set α → ℝ≥0∞)
+  (m_add : ∀ (I : Finset (Set α)) (_h_ss : ↑I ⊆ C) (_h_dis : PairwiseDisjoint (I : Set (Set α)) id)
+    (_h_mem : ⋃₀ ↑I ∈ C), m (⋃₀ I) = ∑ u in I, m u)
+
+example (s : Set (Set α)) (t : Set α) : (∀ a ∈ s, a ⊆ t) ↔ ⋃₀ s ⊆ t := by
+  exact Iff.symm sUnion_subset_iff
+
+/-- An `addContent C` on a `SetSemiring C` is sub-additive.-/
+lemma addContent_sUnion_le_sum {m : AddContent C} (hC : IsSetSemiring C)
+    (J : Finset (Set α)) (h_ss : ↑J ⊆ C) (h_mem : ⋃₀ ↑J ∈ C) :
```
[the remark this answers is not in the document]
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Measure/AddContent.lean:180]: Done.

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 10]
```diff
@@ -141,8 +166,145 @@ lemma addContent_mono (hC : IsSetSemiring C) (hs : s ∈ C) (ht : t ∈ C)
...
+
+theorem extendContent_eq_top (hC : IsSetSemiring C) (m_empty : m ∅ hC.empty_mem = 0)
+    (m_add : ∀ (I : Finset (Set α)) (h_ss : ↑I ⊆ C) (_h_dis : PairwiseDisjoint (I : Set (Set α)) id)
+      (h_mem : ⋃₀ ↑I ∈ C), m (⋃₀ I) h_mem = ∑ u : I, m u (h_ss u.prop))
+    (hs : s ∉ C) :
+    extendContent hC m m_empty m_add s = ∞ := by
+  rw [extendContent_eq_extend, extend_eq_top m hs]
+
+end ExtendContent
+
```
[the remark this answers is not in the document]
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Measure/AddContent.lean]: You are right, this is not used until now. I added two more results in this PR which show that/how this notion is used. See the file `OfAddContent`.

**Comment by pfaffelh** [comment]
> It doesn't build, but it's only the `AddContent` file, not a weird CI error, so hopefully you can fix this. If you encounter difficulties, tell me and I'll take it of it.

It builds now, this was due to the renaming of the last PR.

File: Mathlib/MeasureTheory/Measure/AddContent.lean (hunk 6 above)
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Measure/AddContent.lean]: True, removed.

File: Mathlib/MeasureTheory/Measure/AddContent.lean (hunk 10 above)
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/AddContent.lean]: Sorry, I wasn't clear. I mean this notion is not used at all in the current version of Kolmogorov4_extension, it has even been removed by Rémy in https://github.com/RemyDegenne/kolmogorov_extension4/commit/6a21d3e02fe96f925896e64203a95e95f5b34f75, so I think it shouldn't make it to mathlib.

Could you keep the results of `OfAddContent` for another PR? This one is already big enough, I think.

File: Mathlib/MeasureTheory/Measure/AddContent.lean (hunk 2 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/AddContent.lean]: If you had to change the imports, it probably means that it's not the right place. Indeed, I think `Algebra.Order.BigOperators.Group.Finset` is a better place. For this, you need to tweak a little bit the proof (to avoid adding imports). I am proposing the following version, which also works for multiplication:
```

/-- Subadditivity of the sum over a finset. -/
@[to_additive] lemma Finset.prod_image_le_of_one_le {ι α β : Type*} [DecidableEq α]
    [OrderedCommMonoid β] 
    {J : Finset ι} {g : ι → α} {f : α → β} (hf : ∀ u ∈ J.image g, 1 ≤ f u) :
    ∏ u ∈ J.image g, f u ≤ ∏ u ∈ J, f (g u) := by
  rw [prod_comp f g]
  refine prod_le_prod' fun a hag ↦ ?_
  obtain ⟨i, hi, hig⟩ := Finset.mem_image.mp hag
  apply le_self_pow (hf a hag)
  rw [← Nat.pos_iff_ne_zero, card_pos]
  exact ⟨i, mem_filter.mpr ⟨hi, hig⟩⟩
```
(the `to_additive` tag at the beginning of the proof means that an additive version of the lemma will also be created, which corresponds to your initial lemma).

Comment (pfaffelh) [reply Mathlib/MeasureTheory/Measure/AddContent.lean]: Ok, agreed. (Only changed the place of the docstring since it only belongs to `to_additive`.)

File: Mathlib/MeasureTheory/Measure/AddContent.lean (hunk 10 above)
[the remark this answers is not in the document]
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Measure/AddContent.lean]: Ahhh, I should check Remy's repository more often... Ok, now I see. I remove the `ExtendContent` as well as the file `OfAddContent` from this PR.

File: Mathlib/Algebra/Order/BigOperators/Group/Finset.lean [hunk 11]
```diff
@@ -140,6 +140,19 @@ theorem prod_le_univ_prod_of_one_le' [Fintype ι] {s : Finset ι} (w : ∀ x, 1
     ∏ x ∈ s, f x ≤ ∏ x, f x :=
   prod_le_prod_of_subset_of_one_le' (subset_univ s) fun a _ _ ↦ w a
 
+@[to_additive
+"Subadditivity of the sum over a finset."]
```
Comment (sgouezel) [inline Mathlib/Algebra/Order/BigOperators/Group/Finset.lean:144]: I would just remove the docstring here, because it doesn't really relate to the statement (the point of the statement is that there is an image there, which is not mentioned in the docstring). If you want to put a docstring, very good, but then it should be accurate, and you should also add one for the multiplicative version.

File: Mathlib/Algebra/Order/BigOperators/Group/Finset.lean [hunk 12]
```diff
@@ -140,6 +140,19 @@ theorem prod_le_univ_prod_of_one_le' [Fintype ι] {s : Finset ι} (w : ∀ x, 1
...
+lemma prod_image_le_of_one_le {ι α β : Type*} [DecidableEq α]
+    [OrderedCommMonoid β]
```
Comment (sgouezel) [inline Mathlib/Algebra/Order/BigOperators/Group/Finset.lean:146]: Do you really need to declare a new type here, or can you find a section that talks about OrderedCommMonoid, and use the one that is already around?

File: Mathlib/Data/Set/Accumulate.lean [hunk 13]
```diff
@@ -53,7 +53,11 @@ theorem iUnion_accumulate [Preorder α] : ⋃ x, Accumulate s x = ⋃ x, s x :=
   · exact iUnion_mono fun i => subset_accumulate
 
 @[simp]
-lemma accumulate_zero_nat (s : ℕ → Set β) : Accumulate s 0 = s 0 := by
+lemma accumulate_bot [PartialOrder α] [OrderBot α] (s : α → Set β) : Set.Accumulate s ⊥ = s ⊥ := by
```
Comment (sgouezel) [inline Mathlib/Data/Set/Accumulate.lean:56]:
```suggestion
lemma accumulate_bot [PartialOrder α] [OrderBot α] (s : α → Set β) : Accumulate s ⊥ = s ⊥ := by
```

File: Mathlib/Data/Set/Accumulate.lean [hunk 14]
```diff
@@ -53,7 +53,11 @@ theorem iUnion_accumulate [Preorder α] : ⋃ x, Accumulate s x = ⋃ x, s x :=
...
+  simp [Set.accumulate_def]
+
+@[simp]
+lemma accumulate_zero_nat (s : ℕ → Set β) : Set.Accumulate s 0 = s 0 := by
```
Comment (sgouezel) [inline Mathlib/Data/Set/Accumulate.lean:60]:
```suggestion
lemma accumulate_zero_nat (s : ℕ → Set β) : Accumulate s 0 = s 0 := by
```

File: Mathlib/Algebra/Order/BigOperators/Group/Finset.lean (hunk 12 above)
Comment (pfaffelh) [reply Mathlib/Algebra/Order/BigOperators/Group/Finset.lean:146]: Ok, I missed that. Now I minimize the number of variables I use.

File: Mathlib/Algebra/Order/BigOperators/Group/Finset.lean (hunk 11 above)
Comment (pfaffelh) [reply Mathlib/Algebra/Order/BigOperators/Group/Finset.lean:144]: Docstring is removed.

File: Mathlib/Data/Set/Accumulate.lean (hunk 13 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Accumulate.lean:56]: Done.

File: Mathlib/Data/Set/Accumulate.lean (hunk 14 above)
Comment (pfaffelh) [reply Mathlib/Data/Set/Accumulate.lean:60]: Done.

File: Mathlib/MeasureTheory/SetSemiring.lean [hunk 15]
```diff
@@ -431,8 +431,8 @@ lemma empty_nmem_disjointOfUnion (hC : IsSetSemiring C) (hJ : ↑J ⊆ C) (hj :
   (Exists.choose_spec (hC.disjointOfUnion_props hJ)).2.2.2.2.1 j hj
 
 lemma sUnion_disjointOfUnion (hC : IsSetSemiring C) (hJ : ↑J ⊆ C) :
-    ⋃₀ ⋃ x ∈ J, (hC.disjointOfUnion hJ x : Set (Set α)) = ⋃₀ J
-    := (Exists.choose_spec (hC.disjointOfUnion_props hJ)).2.2.2.2.2.symm
+    ⋃₀ ⋃ x ∈ J, (hC.disjointOfUnion hJ x : Set (Set α)) = ⋃₀ J :=
+    (Exists.choose_spec (hC.disjointOfUnion_props hJ)).2.2.2.2.2.symm
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/SetSemiring.lean:435]:
```suggestion
  (Exists.choose_spec (hC.disjointOfUnion_props hJ)).2.2.2.2.2.symm
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
